US05958942
iii) Synthesis of 4,5-dihydro-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one
To a solution of 1.75 g (2.87 mmol) of 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine in 25 ml of chloroform was added dropwise 0.82 ml (5.74 mmol) of iodotrimethylsilane at room temperature. The reaction mixture was stirred for 15 minutes, which was poured into ice-water, followed by neutralization with a saturated aqueous solution of sodium hydrogencarbonate. This solution was extracted with 150 ml of ethyl acetate. The organic layer was washed with a 1.0N aqueous solution of sodium thiosulfate, then with 100 ml of a saturated aqueous saline solution. The organic layer was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 706 mg of the object product (63.1%, pale yellow solid substance).

reactant | 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.87 mmol, 1.75 g | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C21H26Cl3F3N4O5S
reactant | iodotrimethylsilane | 5.74 mmol, 0.82 ml | I[Si](C)(C)C | C3H9ISi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dihydro-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one | 706 mg, 63.1% | FC(S(=O)(=O)NCCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C15H17F3N4O3S
